Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
epinephrine / Procaine
 
Attending: ___
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ s/p septal myomectomy for HOCM on ___, who now presents 
with ___ days of DOE, orthopnea, PND and "skin tightness" in her 
extremities.  
 She was discharged on lasix and metolazone on a three week 
taper. She has now been off all diuretics x 3 weeks. Now 
dyspneic after a flight of stairs, which she coulg do postop. 
She reports weight gain 187 --> 199 in 1 week on the same home 
scale, although d/c summary documents discharge weight of 86.7 
kg (191 lbs). Has also developed nonproductive cough. Denies 
chest pain beyond post-operative pain when she takes a deep 
breath.  
 
 In the ED, initial vitals were: 98.7 53 157/70 18 99% RA  
 Labs were significant for proBNP 2443, trop < 0.01, CBC and 
Chem-10 wnl.  
 Pt was given 40 iv lasix.  
 Vitals on transfer: 62 132/61 18 98% RA  
 
 On review of systems, s/he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. S/he denies recent fevers, chills or 
rigors. S/he denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
 
 Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  

 
Social History:
___
Family History:
She is adopted and does not know her history.

 
Physical Exam:
PHYSICAL EXAMINATION on ADMISSION:  
 Vitals: 98.2 132/71 61 20 95% RA 88.0 kg standing  
 General: obese woman in no acute distress, pleasant, alert  
 Neck: JVP at base of neck at 45 degrees  
 CV: RRR, II/VI holosystolic murmur best heard at ___  
 Lungs: CTAB, no w/r/r  
 Abdomen: soft, non-tender, obese, + BS  
 GU: no foley  
 Extr: warm and well perfused, no edema, 2+ DP pulses  
 Neuro: moving all extremities  
 Skin: no rashes observed  

==============================================
PHYSICAL EXAMINATION on DISCHARGE:  
VS: T=98.1 BP=110-141/55-93 HR=52-64 RR=18 O2 sat= 94-97%RA 
Wgt 85.9kg
 General: obese woman in no acute distress, pleasant, alert, 
moving around easily  
 Neck: JVP at the clavicle at ___ degrees
 CV: RRR, II/VI blowing late systolic murmur best heard at ___  

 Lungs: CTAB, without wheeze, crackles, rhonchi 
 Abdomen: soft, non-tender, obese, normoactive bowel sounds  
 GU: no foley  
 Extr: warm and well perfused, 1+ pitting to the knees, 2+ DP 
pulses  
 Neuro: moving all extremities  
 Skin: no rashes observed 

 
Pertinent Results:
CXR PA/L ___: (my read) stable cardiomegaly, prior 
interstitial pulmonary edema has resolved, pleural effusions 
seen on lateral view slightly worsened.  

ECG ___: Sinus bradycardia w/ normal axis, LBBB, L atrial 
enlargement. Compared with ___ EKG rate is now brady, 
otherwise unchanged. 

TTE ___:
LVEF: 70%
___: 4.2cm long axis, 6.5cm four chamber length
RA: 5.5cm four chamber length, 1.3cm septal wall thickness, 
1.4cm interolateral thickness
LVOT gradient: 12mmHg
___ - ___ enlargement
RA - Mildly dilated RA. A catheter or pacing wire is seen in the 
RA. 
LV - Asymmetric LVH. Overall normal LVEF (>55%). TDI E/e' >13, 
suggesting PCWP>18mmHg. Mild resting LVOT gradient.
RV - Normal RV chamber size and free wall motion
Aorta - Normal aortic diameter at the sinus level. Mildly 
dilated ascending aorta
AV - ?# aortic valve leaflets. Trace AR
MV - Mildly thickened mitral valve leaflets. No MVP. Mild (1+) 
MR. 
___ - tricuspid valve leaflets. Moderate [2+] TR. Normal PA 
systolic pressure. 
PV/PA - Pulmonic valve not visualized. No PS. Physiologic PR. 
Pericardium - No pericardial effusion
CONCLUSIONS:
The left atrium is mildly dilated. There is asymmetric left 
ventricular hypertrophy (mid septal thickness of 3.2 cm with 
evidence of prior myomectomy and thinning of the basal septum). 
Overall left ventricular systolic function is normal (LVEF>55%). 
Tissue Doppler imaging suggests an increased left ventricular 
filling pressure (PCWP>18mmHg). There is a mild resting left 
ventricular outflow tract obstruction. Right ventricular chamber 
size and free wall motion are normal. The ascending aorta is 
mildly dilated. The number of aortic valve leaflets cannot be 
determined. Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. There is minimal systolic anterior motion of the 
anterior mitral leaflet. Mild (1+) mitral regurgitation is seen. 
Moderate [2+] tricuspid regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 
Compared with the prior study (images reviewed) of ___, 
the left ventricular outflow tract gradient is lower. Other 
findings are similar

LABS on ADMISSION:
___ WBC-7.0 RBC-3.89* Hgb-11.4 Hct-34.8 MCV-90 MCH-29.3 
MCHC-32.8 RDW-14.1 RDWSD-45.4 Plt ___
___ ___ PTT-33.7 ___
___ Glucose-82 UreaN-14 Creat-1.1 Na-139 K-4.3 Cl-105 
HCO3-21* AnGap-17
___ ALT-54* AST-36 AlkPhos-149* TotBili-0.2
___ proBNP-2443*
___ cTropnT-<0.01
___ Calcium-9.3 Phos-3.5 Mg-2.3

LABS on DISCHARGE:
___ WBC-6.6 RBC-4.68 Hgb-13.4 Hct-41.8 MCV-89 MCH-28.6 
MCHC-32.1 RDW-14.2 RDWSD-45.6 Plt ___
___ Glucose-99 UreaN-22* Creat-1.3* Na-139 K-4.2 Cl-101 
HCO3-27 AnGap-15
___ Calcium-10.1 Phos-5.0* Mg-2.___ F s/p septal myomectomy for HOCM on ___ and pacemaker 
placement for isorhythmic AV dissociation ___ who presents 
with ___ days of DOE, orthopnea, PND and "skin tightness" in her 
extremities after instructed to discontinue her Lasix several 
weeks prior.

# dHF ___ HOCM (LVEF >70%): s/p myomectomy ___ with 
improvement in LVOT gradient on ECHO ___, still with severe 
diastolic dysfunction and now with LBBB, likely iatrogenic. Told 
to taper and then discontinue Lasix after previous discharge for 
unclear reasons. Now with volume overload with weight gain (86.7 
(discharge) > 88.0 kg (admission)), elevated BNP of 2443, CXR 
with some pulmonary edema and pleural effusion, and hypervolemia 
on exam. Received 40 iv lasix x 1 in the ED. ACS ruled out as no 
chest pain, negative troponin, no EKG changes. Will need home 
torsemide given her continuing diastolic dysfunction. Will also 
increase her metoprolol to decrease the potential for 
hyperdynamic dysfunction of her left ventricle in the setting of 
HOCM. Will need careful fluid monitoring as potential of fluid 
overload if wet and hyperdynamic dysfunction if dry. NET even on 
20mg PO Torsemide ___. Increased Metoprolol from 12.5mg > 
25mg, which was tolerated well. Recommend daily standing weights 
and 2gm sodium diet. 

# A fib: developed post-op s/p cardioversion and amiodarone. 
Currently in sinus. Not anticoagulated. CHADS2VASC = 2 (female, 
HF). Continue amiodarone 200 daily. 
# isorhythmic AV dissociation s/p pacemaker placement ___: 
sinus rhythm here. Pacer intermittently pacing. 
 # OSA: continued home CPAP at night 
 # GERD: continued home PPI 
 # Depression: continued home paroxetine 
 # Chronic Pain: continued home gabapentin 

TRANSITIONAL ISSUES:
- Monitor weights on torsemide
- Medication changes: started torsemide 20mg, increased 
metoprolol 50mg daily
- Discharge weight: 85.9kg
- Initiate cardiac rehab as outpatient; discuss with Dr. ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 600 mg PO BID 
2. Omeprazole 20 mg PO DAILY 
3. Paroxetine 30 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Amiodarone 200 mg PO DAILY 
6. Aspirin EC 81 mg PO DAILY 
7. Metoprolol Succinate XL 12.5 mg PO DAILY 
8. Simvastatin 10 mg PO QPM 

 
Discharge Medications:
1. Amiodarone 200 mg PO DAILY 
2. Aspirin EC 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Gabapentin 600 mg PO BID 
5. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
6. Omeprazole 20 mg PO DAILY 
7. Paroxetine 30 mg PO DAILY 
8. Simvastatin 10 mg PO QPM 
9. Torsemide 20 mg PO DAILY 
Please take daily 
RX *torsemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
PRIMARY DIAGNOSIS:
diastolic heart failure exacerbation

SECONDARY DIAGNOSES:
Left bundle branch block

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___. You came to the hospital because you were having 
increased difficulty breathing. We found that you were 
experiencing heart failure; this is when the heart fails to push 
fluid forward, causing a buildup of fluid in the lungs. We 
treated you with torsemide, a medication that helps you urinate 
the extra fluid off. We also increased the dose of your 
Metoprolol (a blood pressure medication) to improve your heart's 
ability to pump fluid forward. We also did an ECHO to look at 
your heart's function: it appears to be functioning better since 
the surgery, which is good news. 

We recommend:
- Weigh yourself every day after you first urinate. Call your 
physician if you weight goes up more than 3lbs. 
- We have changed your medications. We have added the medication 
called Torsemide and increased the medication called Metoprolol. 
You can find a list of your medications below. Please read this 
list carefully and take the medications as prescribed. Please 
bring a copy of this list to your next appointment. 
- Eat a low sodium diet
- Work towards losing ___

You can talk about cardiac rehabilitation with Dr. ___ 
you see him next.

It was a pleasure caring for you at ___. We are glad that you 
are feeling better!

Take Care,

Your ___ Cardiology Team
 
Followup Instructions:
___